US04585774
2.77 Grams of [4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-acetic acid was dissolved in 30 ml of DMF, then to this solution was added 1.2 g of triethylamine. Under ice-cooled condition with stirring, 1.4 g of isobutyl chloroformate was added dropwise thereto and stirred for 30 minutes. Further, the reaction mixture was stirred at a room temperature, a DMF solution of 1.46 g of o-carbamoylaniline was added dropwise to the mixture and was stirred for 6 hours. The reaction mixture obtained was concentrated to dryness, the residue was extracted with chloroform and 1N-sodium hydroxide aqueous solution. The chloroform layer was washed with water, dried then chloroform was removed by distillation. The residue obtained was purified by a silica gel column chromatography and the product obtained was converted into a hydrochloride by adding hydrochloric acid-ethanol, then recrystallized from water-acetone to obtain 0.7 g of o-carbamoyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride monohydrate in the form of colorless needle-like crystals. Melting point: 122.0°-125.0° C. (decomposed).

reactant | [4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-acetic acid | COC=1C=C(C(=O)N2CCN(CC2)CC(=O)O)C=CC1OC | C15H20N2O5
reactant | isobutyl chloroformate | 1.4 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | o-carbamoylaniline | 1.46 g | C(N)(=O)C1=C(N)C=CC=C1 | C7H8N2O
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid ethanol | Cl.C(C)O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
product | o-carbamoyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride monohydrate | 0.7 g | O.Cl.C(N)(=O)C1=C(NC(CN2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC=C1 | InChI=1S/C22H26N4O5.ClH.H2O/c1-30-18-8-7-15(13-19(18)31-2)22(29)26-11-9-25(10-12-26)14-20(27)24-17-6-4-3-5-16(17)21(23)28;;/h3-8,13H,9-12,14H2,1-2H3,(H2,23,28)(H,24,27);1H;1H2
